Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ laparoscopic cholecystectomy 

 
History of Present Illness:
HPI: ___ w/ h/o anemia, PUD who presents with a multiple day
history of RUQ pain with bilious emesis this morning as well as
dark stool over the weekend. Her RUQ pain has been present since
at least ___ at which time she was admitted to an OSH with
similar complaints. At that time she underwent EGD which found a
non-bleeding gastric ulcer. RUQ US reportedly with findings of
cholecystitis for which she did not receive antibiotics.
Reportedly her pain improved after having a BM and she was
discharged to home with a PPI. She was taking a PPI for known
ulcer disease but was reportedly noncompliant. She was
subsequently admitted to medicine from ___ with similar RUQ
pain and US at that time found cholelithiasis w/o e/o
cholecystitis. She was discharged to home with plans for surgery
referral as an outpatient. Her pain is not associated with meals
and has been constant. She denies any fevers or chills.

 
Past Medical History:
as per last notes: confirmed with review of OMR

PMHx:  
- ___ syndrome- - diagnosed based genetic testing of son who
has ___. Characterized by minor facial dysmorphism 
(hypertelorism, downward eye slant, and low-set ears), 
proportionate short stature, and heart disease, short webbed 
neck, chest deformity (pectus excavatum), intellectual 
disability (mental retardation), bleeding diathesis, and 
lymphedema
- Presumed diagnosis of Factor V deficiency - s/p multiple
transfusions for asympomatic anemia and FFP for procedures.
Subsequent Factor V level WNL ___.
- Pulmonary stenosis 
- Congenital scoliosis with rod placed then later removed, 
received transfusion on removal 
- Anaemia
- h/o hypoglycemia treated with glucose boost
- h/o DUB given D+C, placed on progesterone, took for 12 months

PSHx:
- s/p Scoliosis surgery x 2 - rod placed in first procedure; it 
was
removed during the second procedure, required transfusion during
___ procedure.
- s/p C section for 1 child, later developed bleeding from wound 
requiring transfusion 
- s/p Lumpectomy of benign breast mass w/ FFP
- s/p D&C - ___ w/ FFP

Haematological history:
Patient initially with what was felt to be Factor V deficiency 
followed in the coagulation and ___ clinic by Dr 
___. She has a documented Factor V level of 11% on 
___. Since than she has received FFP prior to each 
procedure and the factor V level after FFP was documented at 114 
(___) and 96 (___). She was subsequently managed 
___ with FFP prior to D&C and breast biopsy. She 
also reported prolonged bleeding after tooth extraction, and 
heavy menstrual periods. She presented to an outside hospital 
abdominal pain in ___ and had unsuccessful attempt 
at venipuncture in left arm. She then developed left arm pain 
and she returned to outside hospital ___ where ultrasound 
showed LUE DVT. She was transferred to ___ and was seen by 
Hematology consultation service and Factor V level was within 
normal limits at 90%. 

She was initiated on anticoagulation with IV heparin which was 
transitioned to Lovenox, 80mg SC daily on discharge and returned 
to ED the subsequent day, ___, with vaginal bleeding and 
was hospitalized through ___. On ___ she had right upper 
extremity u/s which was notable for thrombus in one of right 
brachial veins, non-occlusive thrombus in right basilic vein. 
Possible thrombus in right subclavian vein. She was seen by 
Ob-GYN, who recommended ten days of PO progesterone, and she was 
discharged on lower dose Lovenox, 50mg SC daily and due to 
bleeding was tretaed for 4 weeks.

She has a previous hx of heavy menstrual periods, significant 
bleeding. She was last seen in clinic in ___

 
Social History:
___
Family History:
confirmed with patient
son with ___ and klinefelter
 
Physical Exam:
PHYSICAL EXAMINATION upon ___  
 
Temp: 99.8 HR: 127 BP: 107/55 Resp: 18 O(2)Sat: 99 Normal
 
Constitutional: uncomfortable
HEENT: Normocephalic, atraumatic, Extraocular muscles
intact
Oropharynx within normal limits
Abdominal: Soft, Nondistended, R sided abd pain to RUQ
Rectal: Heme Negative on resident exam
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema, + pulses
Skin: No rash, Warm and dry
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
___: No petechiae

Physical Examination at discharge:
Vitals: 98.5, 72, 120/64, 18, 100% RA
Gen: AOx3, NAD
CV: WWP
P: no resp distress on RA
Abd: soft, appropriately TTP, dressings c/d/i
 
Pertinent Results:
___ 05:35AM BLOOD WBC-5.3# RBC-3.93* Hgb-8.5* Hct-30.9* 
MCV-79* MCH-21.5* MCHC-27.4* RDW-24.5* Plt ___
___ 09:00AM BLOOD WBC-11.0# RBC-3.75* Hgb-8.2* Hct-28.2* 
MCV-75* MCH-22.0*# MCHC-29.3* RDW-24.8* Plt ___
___ 09:00AM BLOOD Neuts-86.7* Lymphs-6.9* Monos-5.1 Eos-1.0 
Baso-0.2
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD ___ PTT-27.8 ___
___ 05:35AM BLOOD Glucose-77 UreaN-4* Creat-0.6 Na-135 
K-3.8 Cl-106 HCO3-23 AnGap-10
___ 09:00AM BLOOD ALT-21 AST-29 AlkPhos-51 TotBili-0.5
___ 05:35AM BLOOD Calcium-8.5 Phos-3.0 Mg-1.7
___ 09:17AM BLOOD Lactate-0.9

___:  gallbladder scan:

 Delayed uptake of tracer in the gallbladder, visualized between 
75 
and 105 minutes,  most compatible with chronic cholecystitis. 

___:  liver/gallbladder US;

 Distended gallbladder containing a 2.5 cm stone at the neck 
without 
additional evidence of cholecystitis.  A HIDA scan may be 
helpful for further evaluation if clinically indicated.  
  
2.  Splenomegaly.   

___: US bil. leg veins:

  No evidence of deep vein thrombosis in bilateral lower 
extremities. 
  

  

  

 
Brief Hospital Course:
The patient was admitted to the hospital with right upper 
quadrant pain and bilious emesis.  She had been worked up at an 
outside hospital for cholelithiasis and ulcer disease.   On 
ultrasound she was reported to have a stone in the neck of the 
gallbladder.  The surgery service was consulted and the patient 
underwent a HIDA scan which showed signs of chronic 
cholecystitis.  Based on these findings, the patient was taken 
to the operating room on HD #3, where she underwent a 
laparoscopic cholecystectomy.  Operative findings were notable 
for inflammation of the gallbladder wall.  The operative course 
was stable with minimal blood loss.  The patient was extubated 
after the procedure and monitored in the recovery room.

During the post-operative course, the patient initially had 
difficulty voiding and she was straight-cathed once for 300cc 
urine.  The patient subsequently voided without difficulty.  She 
was started on clear liquids and advanced to a regular diet.  
Her pain was controlled with oral analgesia. On the 
post-operative assessment, the patient reported right calf pain 
and underwent an ultra-sound of her lower extremities which were 
negative for DVTs.  The patient's vital signs remained stable 
and she was afebrile.  The patient was discharged home on POD 1 
in stable condition. Appointments for follow were made with the 
acute care service and with her primary care provider.         
 
Medications on Admission:
. Pantoprazole 40 mg PO Q12H  
2. Senna 8.6 mg PO BID:PRN constipation  
3. Topiramate (Topamax) 25 mg PO DAILY  
4. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q6H:PRN Pain  

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain  
2. Docusate Sodium 100 mg PO BID 
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain  
4. Pantoprazole 40 mg PO Q24H 
5. Topiramate (Topamax) 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
The patient was admitted to the hospital with right upper 
quadrant pain. An ultrasound of the gallbladder showed 
gallstones. You were taken to the operating room to have your 
gallbladder removed.  You are slowly recovering from your 
surgery and you are  now preparing for discharge home with the 
following instructions:  

 You were admitted to the hospital with acute cholecystitis. You 
were taken to the operating room and had your gallbladder 
removed laparoscopically. You tolerated the procedure well and 
are now being discharged home to continue your recovery with the 
following instructions.
Please follow up in the Acute Care Surgery clinic at the 
appointment listed below.
ACTIVITY:
 
Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
You may climb stairs. 
You may go outside, but avoid traveling long distances until you 
see your surgeon at your next visit.
Don't lift more than ___ lbs for 4 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
You may start some light exercise when you feel comfortable.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
 
HOW YOU MAY FEEL: 
You may feel weak or "washed out" for a couple of weeks. You 
might want to nap often. Simple tasks may exhaust you.
You may have a sore throat because of a tube that was in your 
throat during surgery.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Tomorrow you may shower and remove the gauzes over your 
incisions. Under these dressing you have small plastic bandages 
called steristrips. Do not remove steri-strips for 2 weeks. 
(These are the thin paper strips that might be on your 
incision.) But if they fall off before that that's okay).
Your incisions may be slightly red around the stitches. This is 
normal.
You may gently wash away dried material around your incision.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing or clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
 
YOUR BOWELS:
Constipation is a common side effect of narcotic pain 
medicaitons. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
If you go 48 hours without a bowel movement, or have pain moving 
the bowels, call your surgeon. 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. Do not 
take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.
Your pain medicine will work better if you take it before your 
pain gets too severe.
Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when you cough 
or when you are doing your deep breathing exercises.
If you experience any of the following, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound
 
 
Followup Instructions:
___